US04889953
1-O-Octadecyl-3-O-[2-[2-(2-trityloxyethoxy)ethoxy]ethyl]glycerol
20.2 g (75 millimole) of stearyl alcohol, 21.4 g (230 millimole) of epichlorohydrin, 40 g of 50% sodium hydroxide, 1.2 g (3.75 millimole) of cetyltrimethylammonium chloride, and 200 ml of toluene were stirred for 14 hours on an oil bath at 60° C. After cooling, 300 ml of hexane and 15 g of anhydrous potassium carbonate were added and the resulting mixture was stirred sufficiently, followed by collection of the organic layer by decantation. The organic layer was subjected to evaporation under reduced pressure, and the residue was extracted with hexane. The insoluble material was filtrated off, and hexane was distilled off under reduced pressure. To the residue was added 0.8 g (20 millimole) of 60% oily sodium hydride with stirring vigorously at room temperature with 150 ml of dioxane and 100 ml of triethylene glycol, and the mixture was stirred at 80° C. for 15 hours after generation of hydrogen stopped. After cooling, dioxane was distilled off under reduced pressure, and the residue was partitioned between ether and water. The ether layer was washed 5 times with water, and ether was distilled off under reduced pressure. The residue was dissolved in 80 ml of pyridine, to which 22.3 g (80 millimole) of trityl chloride was added, and the resulting mixture was stirred at 40° C. for 15 hours. Pyridine was distilled off under reduced pressure, and the residue was partitioned between dilute hydrochloric acid and dichloromethane. The dichloromethane layer was washed once with water and dichloromethane was distilled off. The resulting residue was purified by silica gel column chromatography (Merck Co., Art.7734, 450 g, Eluant: hexane-ethyl acetate=12:1-5:1), to give 38.6 g (68%) of the above-captioned compound.

reactant | stearyl alcohol | 75 millimole, 20.2 g | C(CCCCCCCCCCCCCCCCC)O | C18H38O
reactant | epichlorohydrin | 230 millimole, 21.4 g | C(Cl)C1CO1 | C3H5ClO
reactant | sodium hydroxide | 40 g | [OH-].[Na+]
reactant | potassium carbonate | 15 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydride | 20 millimole, 0.8 g | [H-].[Na+]
reactant | triethylene glycol | 100 ml | C(COCCOCCO)O | C6H14O4
reactant | hydrogen | [H][H] | H2
reactant | trityl chloride | 80 millimole, 22.3 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
catalyst | cetyltrimethylammonium chloride | 3.75 millimole, 1.2 g | [Cl-].C(CCCCCCCCCCCCCCC)[N+](C)(C)C
solvent | pyridine | 80 ml | N1=CC=CC=C1 | C5H5N
solvent | dioxane | 150 ml | O1CCOCC1 | C4H8O2
solvent | hexane | 300 ml | CCCCCC | C6H14
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 1-O-Octadecyl-3-O-[2-[2-(2-trityloxyethoxy)ethoxy]ethyl]glycerol | 38.6 g, 68% | C(CCCCCCCCCCCCCCCCC)OCC(O)COCCOCCOCCOC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C46H70O6
